US07485732B2
1-[bis(4-chlorophenyl)methyl]-3-[(1S)-1-(3,5-difluorophenyl)-2-fluoro-2-methylpropyl]azetidine
To a solution of 175 mg (0.368 mmol) of 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol in 3 mL of CH2Cl2, 1 mL of hydrogen fluoride-pyridine was added and the reaction was stirred for 9 h at 42° C. Then the reaction mixture was poured to 7 mL of 5N NaOH, 7 mL of ag NaHCO3 and 30 mL of CH2Cl2. Adjusted pH to 8-9 with 2N NaOH. The water layer was extracted with CH2Cl2 (3×30 mL). The combined organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with 10% methyl tert-butyl ether-hexane to afford the title compound as a white solid. 1H NMR(CDCl3) δ 1.25 (t, J=22 Hz, 6H), 2.33 (t, J=6.5 Hz, 1H), 2.83-2.89 (m, 2H), 3.09-3.11 (m, 2H), 3.60 (m, 1H), 4.20 (s, 1H), 6.68-6.71 (m, 3H), 7.21-7.33 (m, 8H)

reactant | 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol | 0.368 mmol, 175 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C26H25Cl2F2NO
reactant | NaOH | 5N, 7 mL | [OH-].[Na+]
reactant | NaHCO3 | 7 mL | C(=O)(O)[O-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrogen fluoride-pyridine | 1 mL | N1=CC=CC=C1.F
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-[bis(4-chlorophenyl)methyl]-3-[(1S)-1-(3,5-difluorophenyl)-2-fluoro-2-methylpropyl]azetidine | ClC1=CC=C(C=C1)C(N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C26H24Cl2F3N
